US05955607
A solution of 30 g of 6-butoxy-2,2-dimethylchroman-4-one oxime in 500 ml of methanol, 500 ml of THF and 30 ml of ammonia solution was hydrogenated in a shaking duck for 8 h in the presence of Raney nickel. After filtering off the catalyst and concentrating in vacuo, 20.5 g of 4-amino-6-butoxy-2,2-dimethylchroman were obtained.

reactant | 6-butoxy-2,2-dimethylchroman-4-one oxime | 30 g | C(CCC)OC=1C=C2C(CC(OC2=CC1)(C)C)=NO | C15H21NO3
solvent | methanol | 500 ml | CO | CH4O
solvent | THF | 500 ml | C1CCOC1 | C4H8O
solvent | ammonia | 30 ml | N | H3N
catalyst | Raney nickel | [Ni] | Ni
product | 4-amino-6-butoxy-2,2-dimethylchroman | 20.5 g | NC1CC(OC2=CC=C(C=C12)OCCCC)(C)C | C15H23NO2
